L1 (VDD net13) inductor
L0 (VDD net9) inductor
M4 (net11 VB1 VSS VSS) nmos4
M3 (net12 net8 net11 VSS) nmos4
M2 (net8 net12 net11 VSS) nmos4
M1 (net13 VB3 net12 VSS) nmos4
M0 (net9 VB2 net8 VSS) nmos4
? Missing component
C3 (net13 net12) capacitor
C2 (net9 net8) capacitor
C1 (net23 net13) capacitor
C0 (net23 net9) capacitor
